US07618985B2
The 3-(3-methoxy-4-methylphenyl)acryloyl chloride was dissolved in acetone (800 ml). The resulting solution was added slowly (15 min) at 0° C. to a mixture of sodium azide (13 g) in water (100 ml) and acetone (100 ml) while vigorously stirring and cooling with an ice-bath. After addition was complete the reaction mixture was stirred at 0° C. for 90 minutes while vigorously stirring. The reaction mixture was then poured out on ice-water (300ml). After stirring for 15 minutes the mixture was filtered and the solid residue washed with excess water. The remaining solid residue was dissolved in dichloromethane (45 ml). The liberated water was removed with a separatory funnel. The dichloromethane layer was dried with Na2SO4 and filtered to give a dichloromethane solution of 3-(3-methoxy-4-methylphenyl)acryloyl azide for immediate use in the next step.

reactant | 3-(3-methoxy-4-methylphenyl)acryloyl chloride | COC=1C=C(C=CC1C)C=CC(=O)Cl | C11H11ClO2
reactant | sodium azide | 13 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 800 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(3-methoxy-4-methylphenyl)acryloyl azide | COC=1C=C(C=CC1C)C=CC(=O)N=[N+]=[N-] | C11H11N3O2
